* C:\Users\harry\Projects\LtspiceProject\junyo\1kW_LCCLS_sim.asc
* Generated by LTspice 26.0.1 for Windows.
Lm sw1 N012 81n Rser=1m
Cm N012 sw2 918p
Ctx N013 N012 320p
RL N008 0 100
V2 epwm1A 0 PULSE(0 5 0 {tr} {tf} {{1/fsw-tr-tf}/2-td} {1/fsw})
V3 epwm1B 0 PULSE(0 5 {0.5/fsw} {tr} {tf} {{1/fsw-tr-tf}/2-td} {1/fsw})
X§U3 N005 G1H sw1 GAN080-650EBE ;§pnba Drain)Gate)Source
X§U4 sw1 G1L 0 GAN080-650EBE ;§pnba Drain)Gate)Source
V8 N011 0 {Vdc}
X§U5 N005 G2H sw2 GAN080-650EBE ;§pnba Drain)Gate)Source
X§U6 sw2 G2L N024 GAN080-650EBE ;§pnba Drain)Gate)Source
V13 epwm2B 0 PULSE(0 5 0 {tr} {tf} {{1/fsw-tr-tf}/2-td} {1/fsw})
V14 epwm2A 0 PULSE(0 5 {0.5/fsw} {tr} {tf} {{1/fsw-tr-tf}/2-td} {1/fsw})
X§U9 N001 epwm1A 0 0 vdd1 N002 N004 vss1 MAX22702E ;§pnba VDDA)IN)_EN)GNDA)VDDB)OUT)ADJ)VSSB
D9 G1H N003 ZLLS350
R7 G1H N002 4
V1 N001 0 5
R14 vdd1 N004 20k
R15 N004 vss1 30k
V15 vdd1 sw1 6
R16 N003 N002 2
V16 sw1 vss1 3
X§U10 N006 epwm1B 0 0 vdd2 N007 N010 vss2 MAX22702E ;§pnba VDDA)IN)_EN)GNDA)VDDB)OUT)ADJ)VSSB
D10 G1L N009 ZLLS350
R17 G1L N007 4
V17 N006 0 5
R18 vdd2 N010 20k
R19 N010 vss2 30k
V18 vdd2 0 6
R20 N009 N007 2
V19 0 vss2 3
X§U11 N020 epwm2A 0 0 vdd11 N022 N025 vss11 MAX22702E ;§pnba VDDA)IN)_EN)GNDA)VDDB)OUT)ADJ)VSSB
D11 G2H N023 ZLLS350
R21 G2H N022 4
V20 N020 0 5
R22 vdd11 N025 20k
R23 N025 vss11 30k
V21 vdd11 sw2 6
R24 N023 N022 2
V22 sw2 vss11 3
X§U12 N026 epwm2B 0 0 vdd22 N028 N030 vss22 MAX22702E ;§pnba VDDA)IN)_EN)GNDA)VDDB)OUT)ADJ)VSSB
D12 G2L N029 ZLLS350
R25 G2L N028 4
V23 N026 0 5
R26 vdd22 N030 20k
R27 N030 vss22 30k
V24 vdd22 0 6
R28 N029 N028 2
V25 0 vss22 3
D1 N018 N008 Diode
D2 0 N018 Diode
D3 N019 N008 Diode
D4 0 N019 Diode
C1 N008 0 100n
C4 N027 0 10n
R2 N027 0 4.7k
D5 N024 N027 RB168VAM150
R1 N024 0 0.05
R4 N013 N016 78m
L1 N016 sw2 2.17µ Rser=1m
R5 sw2 0 1T
L2 N021 N017 2.78µ Rser=1m
R6 N014 N017 76m
R9 N021 0 1T
C5 N015 N014 185p
R10 N015 N021 2.4
D6 N011 N005 Diode
C6 N005 0 10µ Rser=1
.model D D
.lib C:\Users\harry\AppData\Local\LTspice\lib\cmp\standard.dio
.MODEL ZLLS350 D IS=14E-8 N=1.03 ISR=9E-8 NR=2 IKF=0.043 BV=56 IBV=1E-4
+RS=1.2 TT=1e-9 CJO=13.5E-12 VJ=0.6 M=0.33 EG=0.63 XTI=2 TRS1=4E-3
.model DDZ5V6ASF D(Is=2.3n Rs=1.5 N=1.85 Cjo=45p M=0.33 Vj=0.75 Bv=5.415 Ibv=20m)
.param Vdc=120 fsw=6.80e6 tr=1n tf=1n td=12n
.tran 0 {500/fsw} 0
.meas Pin AVG -V(n005)*I(v8) from {300/fsw} to {500/fsw}
.meas Psw AVG V(sw1,sw2)*I(Lm) from {300/fsw} to {500/fsw}
.meas Pout AVG V(N008,n019)*I(RL) from {300/fsw} to {500/fsw}
.meas eff param Pout/Pin*100
.model Diode D(Ron=0.0001 Roff=100G Vfwd=0)
K1 L1 L2 0.022393
* Library below included based on ModelFile attribute of instance X§U3, X§U4, X§U5, X§U6 (C:\Users\harry\Projects\LtspiceProject\junyo\model\GAN080-650EBE.asy)
.lib GAN080-650EBE_LTspice.lib
* Library below included based on ModelFile attribute of instance X§U9, X§U10, X§U11, X§U12 (C:\Users\harry\AppData\Local\LTspice\lib\sym\PowerProducts\MAX22702E.asy)
.lib MAX22702E.sub
.backanno
.end
